US06355799B1
Preparation of 3-(2-amino-4-chloro-6-fluoro-3-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (Compound no. 1-16).
3-(2-Amino-4-chloro-6-fluoro-3-methoxyphenyl)-1-methyl-6trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (1.1 g, 2.7 mmol) was dissolved in 50 ml of anhydrous 1,2-dichloroethane and 3.4 g (10.8 mmol) of borontribromide imethylsulfide complex was added to the solution. The solution was refluxed for 16 hr and methylene chloride (100 ml) was added. Washing with water followed by drying (anhydrous sodium sulfate) and removal of the solvent afforded a residue which was triturated with ether to afford the title compound (0.6 g).

reactant | 3-(2-Amino-4-chloro-6-fluoro-3-methoxyphenyl)-1-methyl-6trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 2.7 mmol, 1.1 g | NC1=C(C(=CC(=C1OC)Cl)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H10ClF4N3O3
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 3-(2-amino-4-chloro-6-fluoro-3-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 0.6 g | NC1=C(C(=CC(=C1O)Cl)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C12H8ClF4N3O3
